US06265588B1
2-tertiary-Butoxycarbonylaminoacetylamino-p-phenylenediamine
8.65 g (0.08 mol) of p-phenylenediamine are dissolved in 300 ml of absolute tetrahydrofuran (THF) together with 15.3 g (0.088 mol) of N-Boc-glycine, and 18.05g (0.088 mol) of dicyclohexylcarbodiimide is added in portions. After 5 h, the deposited precipitate is filtered off with suction, the filtrate is concentrated, and the product is purified by chromatography on silica gel by means of ethyl acetate/methanol/acetic acid and then crystallized from ethyl acetate/petroleum ether. The yield of the process was 13.5 g with a melting point 144° C.

reactant | p-phenylenediamine | 0.08 mol, 8.65 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | N-Boc-glycine | 0.088 mol, 15.3 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | dicyclohexylcarbodiimide | 0.088 mol, 18.05g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-tertiary-Butoxycarbonylaminoacetylamino-p-phenylenediamine | C(C)(C)(C)OC(=O)NCC(=O)NNC1=CC=C(C=C1)N | C13H20N4O3
